US08530486B2
6-bromo-7-chloroquinazolin-2,4(1H,3H)-dione
Prepared according to general method C from 2-amino-5-bromo-4-chlorobenzoic acid (987 mg) and urea (2.36 g). Yield: 1.00 g (92%) of a solid. 1H-NMR (DMSO-δ6) δ (ppm) 8.01 (s, 1H), 7.36 (s, 1H).

reactant | 2-amino-5-bromo-4-chlorobenzoic acid | 987 mg | NC1=C(C(=O)O)C=C(C(=C1)Cl)Br | C7H5BrClNO2
reactant | urea | 2.36 g | NC(=O)N | CH4N2O
product | 6-bromo-7-chloroquinazolin-2,4(1H,3H)-dione | BrC=1C=C2C(NC(NC2=CC1Cl)=O)=O | C8H4BrClN2O2
